US08471005B2
Into a 30 mL vial, 7-(4-Methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.205 g, 0.000642 mol), Methanol (4 mL, 0.1 mol) and Tetrahydrofuran (9 mL, 0.1 mol) were added. N-Bromosuccinimide (0.137 g, 0.000770 mol) was added portion wise over 5 minutes. The reaction was stirred at room temperature over night. The solvent was removed under vacuum. The solid was partitioned with water and filtered to give a yellow solid. The solid was washed with cold methanol to give 5-Bromo-7-(4-methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (140 mg, 55%). NMR 1H (DSMO-d6)-9.01 (s, 1H), 8.48 (d, 2H, J=8.48 Hz), 8.07 (d, 2H, J=8.53 Hz), 7.79 (s, 1H), 3.28 (s, 3H), 2.62 (s, 3H)

reactant | 7-(4-Methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.000642 mol, 0.205 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)SC | C14H13N3O2S2
reactant | Methanol | 0.1 mol, 4 mL | CO | CH4O
reactant | Tetrahydrofuran | 0.1 mol, 9 mL | O1CCCC1 | C4H8O
reactant | N-Bromosuccinimide | 0.000770 mol, 0.137 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-Bromo-7-(4-methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 140 mg, 55% | BrC=1C=C(N2N=C(N=CC21)SC)C2=CC=C(C=C2)S(=O)(=O)C | C14H12BrN3O2S2
